US07169777B2
Step I: Preparation of 4-[(1-Cyclohexyl-2-nitro-ethyl)]-piperazine-1-carboxylic acid tert-butyl ester
To a solution of (2-nitrovinyl)-cyclohexane (2.63 g, 16.94 mmol), prepared as in J. Org. Chem. 1993, 58, 3850, in dry CH2Cl2 (22 mL), N-Boc piperazine (2.63 g, 14.12 mmol) was added at room temperature and reaction stirred overnight. Solvent was removed under reduced pressure to afford the adduct product (99%) as an oil. MS m/z 342.4 (M++1) .

reactant | (2-nitrovinyl)-cyclohexane | 16.94 mmol, 2.63 g | [N+](=O)([O-])C=CC1CCCCC1 | C8H13NO2
reactant | N-Boc piperazine | 14.12 mmol, 2.63 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
solvent | CH2Cl2 | 22 mL | C(Cl)Cl | CH2Cl2
product | 4-[(1-Cyclohexyl-2-nitro-ethyl)]-piperazine-1-carboxylic acid tert-butyl ester | 99% | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C[N+](=O)[O-])C1CCCCC1 | C17H31N3O4
